US08609150B2
9.2 g (69 mmol) of N-chlorosuccinimide was charged to a N,N-dimethylformamide (DMF) 15 ml solution of 8.0 g (65 mmol) of 2-methoxy-4-methylpyridine, followed by stirring for 18 hours. Water was added to the reaction solution, and the aqueous layer was extracted with diethyl ether. The organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product was purified by silica gel column chromatography to obtain 8.5 g (yield: 82%) of 5-chloro-2-methoxy-4-methylpyridine (melting point 32 to 33° C.).

reactant | N-chlorosuccinimide | 69 mmol, 9.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 2-methoxy-4-methylpyridine | 65 mmol, 8.0 g | COC1=NC=CC(=C1)C | C7H9NO
solvent | Water | O | H2O
product | 5-chloro-2-methoxy-4-methylpyridine | 8.5 g, yield: 82% | ClC=1C(=CC(=NC1)OC)C | C7H8ClNO
